US06740647B1
a) 5-Formyl-4-chlorothiophene-3-carbonitrile
35 g (325 mmol) of tert-butyl nitrite were added dropwise at room temperature to a solution of 53.0 g (250 mmol) of 2-amino-4-chloro-5-formylthiophene-3-carbonitrile (the synthesis of this compound is described in Patent DB 3738910) in 600 ml of a 1:1 mixture of acetonitrile and dimethylformamide, during which process the temperature of the reaction mixture rose from 20° C. to 37° C. and vigorous evolution of gas began. The mixture was cooled to 25° C. and stirred for 7 hours at room temperature, the black solution was concentrated on a rotary evaporator under a high vacuum, the residue was purified by column chromatography (eluant dichloromethane), and 29 g (68%) of the desired compound were obtained as yellow oil. 1H NMR (270 MHz, DMSO-d6): δ=9.1 (s, 1H), 10.0 (s, 1H).

reactant | tert-butyl nitrite | 325 mmol, 35 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-4-chloro-5-formylthiophene-3-carbonitrile | 250 mmol, 53.0 g | NC=1SC(=C(C1C#N)Cl)C=O | C6H3ClN2OS
reactant | acetonitrile | C(C)#N | C2H3N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Formyl-4-chlorothiophene-3-carbonitrile | 29 g, 68% | C(=O)C1=C(C(=CS1)C#N)Cl | C6H2ClNOS
